US09416132B2
A mixture of 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonic acid (6.8 g, 22 mmol) and PCl5 (5 g, 24 mmol) was stirred at room temperature for 30 min. And then the mixture was heated at 100° C. and stirred for 2 h. After cooling to room temperature, the mixture was washed with EtOAc (150 mL×3). The combined extracts were concentrated in vacuo to give crude 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonyl chloride (5 g, 68%) as a whit solid, which was used in the next step directly.

reactant | 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonic acid | 22 mmol, 6.8 g | O=C1N(C(C2=CC=CC=C12)=O)C1CCC(CC1)S(=O)(=O)O | C14H15NO5S
reactant | PCl5 | 24 mmol, 5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonyl chloride | 5 g, 68% | O=C1N(C(C2=CC=CC=C12)=O)C1CCC(CC1)S(=O)(=O)Cl | C14H14ClNO4S
